US08278463B2
Sodium hydroxide solution (30% w/v; 100 ml) was added to a stirred suspension of duloxetine maleate (105 g; 0.254 mole) in a mixture of toluene (1.05 L) and deionised water (1.05 L) at about 25° C. to attain a pH of 11 to 12. The mixture was stirred for 10 minutes. Toluene layer was separated and aqueous layer was subsequently extracted with toluene (525 ml). The combined toluene layer was washed with deionised water (2×525 ml) and concentrated under vacuum to obtain duloxetine free base as an oily mass. The duloxetine free base so obtained was stirred in ethyl acetate (472.5 ml) and ethyl acetate—hydrochloric acid solution (140 ml; 0.276 mole; 8% w/w; 1.1 mole equivalent) was added to the stirred solution at 15° to 20° C. The mixture was stirred at 15° to 20° C. for 30 minutes, at 20° to 25° C. for 2 hours and subsequently at 5° to 10° C. for 2 hours. The solid was filtered, washed with ethyl acetate (2×105 ml) and dried under vacuum at 40° to 45° C. to obtain the title compound as a brownish solid.

reactant | Sodium hydroxide | 100 ml | [OH-].[Na+]
reactant | duloxetine maleate | 0.254 mole, 105 g | CNCC[C@@H](C1=CC=CS1)OC=2C=CC=C3C2C=CC=C3.C(\C=C/C(=O)[O-])(=O)[O-]
reactant | water | 1.05 L | O | H2O
solvent | toluene | 1.05 L | C1(=CC=CC=C1)C | C7H8
product | duloxetine | CNCC[C@@H](C1=CC=CS1)OC=2C=CC=C3C2C=CC=C3 | C18H19NOS
